US04032527
A mixture of 2-(4-(dimethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid (20.3 g.), N,N,N',N'-tetramethyl-m-phenylenediamine (88%, 9.3 g.) and acetic anhydride (74 ml.) was heated (to 95° C.) during one hour, then cooled, affording 3-(2,4-bis(dimethylamino)phenyl-3-(4-(dimethylamino)phenyl)4,5,6,7-tetrachlorophthalide (I: X= Y4 = (CH3)2N, Y2 = H, Z4 = Z5 = Z6 = Z7 = Cl) (20.3 g., m.p. 227°- 229° C.).

reactant | 2-(4-(dimethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid | 20.3 g | CN(C1=CC=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=C1)C | C16H11Cl4NO3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 9.3 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | 74 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-bis(dimethylamino)phenyl-3-(4-(dimethylamino)phenyl)4,5,6,7-tetrachlorophthalide | 20.3 g | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=CC=C(C=C1)N(C)C)C | C26H25Cl4N3O2
